### PR TITLE
Fix erdos_455 misformalization

### PR DESCRIPTION
**Pull request by mzhorvath1**
The previous formalization was false due to natural number subtraction underflow, causing an issue with the convexity condition.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/455.lean [hunk 1]
```diff
@@ -28,20 +28,20 @@ open Filter
...
 
 /-- Let `q : ℕ → ℕ` be a strictly increasing sequence of primes such that
-`q (n + 1) - q n ≥ q n - q (n - 1)`. Must `lim q n / (n ^ 2) = ∞`? -/
+`q (n + 2) - q (n + 1) ≥ q (n + 1) - q n`. Must `lim q n / (n ^ 2) = ∞`? -/
 @[category research open, AMS 11]
 theorem erdos_455: answer(sorry) ↔ ∀ q : ℕ → ℕ, StrictMono q →
-    (∀ n, (q n).Prime ∧ q (n + 1) - q n ≥ q n - q (n - 1)) →
-    Tendsto (fun n : ℕ => (q n : ℝ) / n ^ 2) atTop atTop := by
+    (∀ n, (q n).Prime ∧ q (n + 2) - q (n + 1) ≥ q (n + 1) - q n) →
+    Tendsto (fun n : ℕ => (q n : ℝ) / (n ^ 2 : ℝ)) atTop atTop := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/455.lean]:
```suggestion
    Tendsto (fun n : ℕ => (q n : ℝ) / n ^ 2) atTop atTop := by
```
This is not necessary, the casting will be done in the correct way automatically, right?

File: FormalConjectures/ErdosProblems/455.lean [hunk 2]
```diff
@@ -28,20 +28,20 @@ open Filter
...
 /--  Let `q : ℕ → ℕ` be a strictly increasing sequence of primes such that
-`q (n + 1) - q n ≥ q n - q (n - 1)`. Then `liminf q n / (n ^ 2) > 0.352`, and this is proved in
+`q (n + 2) - q (n + 1) ≥ q (n + 1) - q n`. Then `liminf q n / (n ^ 2) > 0.352`, and this is proved in
 [Ri76]. -/
 @[category research solved, AMS 11]
 theorem erdos_455.liminf : ∀ q : ℕ → ℕ, StrictMono q →
-    (∀ n, (q n).Prime ∧ q (n + 1) - q n ≥ q n - q (n - 1)) →
-    liminf (fun n : ℕ => (q n : ℝ) / n ^ 2) atTop > 0.352 := by
+    (∀ n, (q n).Prime ∧ q (n + 2) - q (n + 1) ≥ q (n + 1) - q n) →
+    liminf (fun n : ℕ => (q n : ℝ) / (n ^ 2 : ℝ)) atTop > 0.352 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/455.lean]:
```suggestion
    liminf (fun n : ℕ => (q n : ℝ) / n ^ 2) atTop > 0.352 := by
```
same here

**Review by mo271 — APPROVED** [review]
good catch, thanks!

File: FormalConjectures/ErdosProblems/455.lean (hunk 1 above)
Comment (mzhorvath1) [reply FormalConjectures/ErdosProblems/455.lean]: Good point, removed the explicit casting.

**Comment by mo271** [comment]
Thanks again!
